US06982348B2
5) 8,8-dimethyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-ol
To a solution of 8,8-dimethyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one (29.20 g, 155.1 mmol) in methanol (150 ml) was added sodium borohydride (5.87 g, 155 mmol) by small portions under ice-cooling, and the mixture was stirred at room temperature for 1 hr. The reaction solution was diluted with water and extracted twice with ethyl acetate. The recovered organic layer was-dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-6/1) to give the objective substance.

reactant | 8,8-dimethyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one | 155.1 mmol, 29.20 g | CC1(CCC(C2=C(C1)C=CC=C2)=O)C | C13H16O
reactant | sodium borohydride | 155 mmol, 5.87 g | [BH4-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | water | O | H2O
product | 8,8-dimethyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-ol | CC1(CCC(C2=C(C1)C=CC=C2)O)C | C13H18O
